US07452908B2
(3S)-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-1,1-dimethylpiperidinium bromide
To 15 mg of (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3S)-1-methyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide, 0.5 ml of 10% methyl bromide-acetonitrile was added at room temperature, followed by 12 hours' stirring. The solvent in the reaction liquid was distilled off under reduced pressure, and the resulting residue was purified by preparative thin-layer chromatography (aluminium oxide 60F254, Art. 5713 (Merck), choroform/methanol=18/1) to provide 15 mg of the title compound as a white solid.

reactant | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3S)-1-methyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 15 mg | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@H]1CN(CCC1)C | C38H46N4O4
reactant | methyl bromide acetonitrile | 0.5 ml | CBr.C(C)#N
product | (3S)-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-1,1-dimethylpiperidinium bromide | 15 mg | [Br-].O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@H]1C[N+](CCC1)(C)C | InChI=1S/C39H48N4O4.BrH/c1-43(2)23-13-14-29(28-43)26-40-37(46)34-21-12-22-41(34)38(47)35-24-33(44)27-42(35)36(45)25-39(30-15-6-3-7-16-30,31-17-8-4-9-18-31)32-19-10-5-11-20-32;/h3-11,15-20,29,33-35,44H,12-14,21-28H2,1-2H3;1H/t29-,33+,34+,35-;/m0./s1
